US06783948B1
N-(4-methoxyphenyl)isatin
A solution of isatin (2.5 g, 0.017 mol) in anhydrous DMF (50 ml) was cooled to 0° C. under a nitrogen atmosphere and treated with sodium hydride (0.5 g, 1.2 equivalents). A purple solution was formed which was stirred at 0° C. for 30 minutes and then warmed to room temperature. 4-Bromoanisole (2.13 ml, 1 equivalent) was added followed by copper iodide (6.46 g, 2 equivalents). The reaction was heated in an oil-bath at 145° C. for 7 hours. The reaction was then cooled to room temperature and diluted with an equal volume of ethyl acetate. This suspension was filtered and the filtrate was evaporated to dryness. TLC (1:4, ethyl acetate:hexanes) indicated a very clean reaction; Rf (product)=0.5. The crude material was used as such for the next reaction.

reactant | isatin | 0.017 mol, 2.5 g | N1C(=O)C(=O)C2=CC=CC=C12 | C8H5NO2
reactant | sodium hydride | 0.5 g, 1.2 equivalents | [H-].[Na+]
reactant | 4-Bromoanisole | 2.13 ml, 1 equivalent | BrC1=CC=C(C=C1)OC | C7H7BrO
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | copper iodide | 6.46 g, 2 equivalents | [Cu](I)I
product | N-(4-methoxyphenyl)isatin | COC1=CC=C(C=C1)N1C(=O)C(=O)C2=CC=CC=C12 | C15H11NO3
